US09422271B2
2-(4-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)phenyl)acetonitrile (Compound 17)
A mixture of 2-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine (200 mg, 0.85 mmol, 1.0 equiv.), 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetonitrile (250 mg, 1.0 mmol, 1.2 equiv.), Pd(dippf)Cl2 (69.5 mg, 0.085 mmol, 0.1 equiv.), Na2CO3 (360.4 mg, 3.4 mmol, 4.0 equiv.), dioxane (5 ml) and water (1 ml) was added to the filtrate. The reaction mixture was heated to 100° C. for 15 h under nitrogen atmosphere. The residue was purified by silica gel chromatography (CH2Cl2/methanol 500:1 to 60:1) to afford title compound 2-(4-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)phenyl)acetonitrile (Compound 17) (28.6 mg, 10%) as solid. LC-MS (m/z)=317.1 [M+H]+;

reactant | 2-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 0.85 mmol, 200 mg, 1.0 equiv. | ClC1=NC=CC(=N1)NC1=NNC(=C1)C1CC1 | C10H10ClN5
reactant | 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetonitrile | 1.0 mmol, 250 mg, 1.2 equiv. | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CC#N)C | C14H18BNO2
reactant | Na2CO3 | 3.4 mmol, 360.4 mg, 4.0 equiv. | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | 2-(4-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)phenyl)acetonitrile | 28.6 mg, 10% | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=C1)C1=CC=C(C=C1)CC#N | C18H16N6
